US08492582B2
Water (0.3 mL), 2-amino-6-bromopyridine (0.037 g), sodium bicarbonate (0.036 g), and bis(triphenylphosphine)palladium(II) dichloride (5.0 mg) were added to an ethylene glycol dimethyl ether (1 mL) suspension of tert-butyl 2-(2-acetoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-4-phenylbenzoate (0.080 g), followed by heating to reflux under a nitrogen atmosphere for 1 hour and 30 minutes. The reaction mixture was cooled to room temperature, and then bis(triphenylphosphine)palladium(II) dichloride (5.0 mg) was added thereto, followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and methanol (0.3 mL) and sodium carbonate (0.046 g) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 20 minutes. The reaction mixture was cooled to room temperature, and water and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 90-60% hexane/ethyl acetate] to obtain 0.032 g of tert-butyl 2-(5-(6-aminopyridin-2-yl)-2-hydroxybenzamido)-4-phenylbenzoate.

reactant | 2-amino-6-bromopyridine | 0.037 g | NC1=NC(=CC=C1)Br | C5H5BrN2
reactant | sodium bicarbonate | 0.036 g | C([O-])(O)=O.[Na+]
reactant | tert-butyl 2-(2-acetoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamido)-4-phenylbenzoate | 0.080 g | C(C)(=O)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C32H36BNO7
reactant | sodium carbonate | 0.046 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 5.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 5.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
solvent | methanol | 0.3 mL | CO | CH4O
solvent | ethylene glycol dimethyl ether | 1 mL | COCCOC | C4H10O2
solvent | Water | 0.3 mL | O | H2O
product | tert-butyl 2-(5-(6-aminopyridin-2-yl)-2-hydroxybenzamido)-4-phenylbenzoate | 0.032 g | NC1=CC=CC(=N1)C=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)O | C29H27N3O4
